US07947851B2
Step b) Formation of 5-{[4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutyl)amino]-2-fluorobenzoic acid
Methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutyl)amino]-2-fluorobenzoate (541 mg; 1.08 mmol) was dissolved in 10 mL of EtOH and sodium hydroxide (649.63 μl; 5.00 M, 3.25 mmol) was added. The reaction mixture was stirred at 65° C. for 2h30. The reaction mixture was allowed to cool down and EtOAc (50 mL) was added. The organic layer was washed three times with HCl (1M), dried over MgSO4, filtered and concentrated under reduced pressure to afford 450 mg (86%) of the title compound as a yellow solid. HPLC, Rt: 5.97 min (purity: 98.9%); LC/MS M+(ESI): 486.2, M−(ESI)=484.0; 1H NMR (CDCl3) δ: 7.44 (m, 4H), 7.32 (m, 1H), 7.20 (d, J=9.8 Hz, 2H,), 7.14 (d, J=8.3 Hz, 2H), 6.97 (m, 1H), 6.91-6.75 (m, 1H), 4.48 (s, 2H), 3.42 (m, 2H), 2.60 (t, J=7.7 Hz, 2H), 1.65-1.46 (m, 4H), 1.40-1.28 (m, 2H), 0.99-0.87 (m, 12H).

reactant | Methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutyl)amino]-2-fluorobenzoate | 1.08 mmol, 541 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CCC(C)(C)C)C=C1 | C33H38FNO2
reactant | sodium hydroxide | 3.25 mmol, 5.00 M, 649.63 μl | [OH-].[Na+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-{[4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutyl)amino]-2-fluorobenzoic acid | 450 mg, 86% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)CCC(C)(C)C)C=C1 | C32H36FNO2
